US06878726B2
2-(5-Isopropoxy-4-Chloro-3-Trifluoromethyl-Pyrazol-1-yl)-5-Methanesulfonyl-Pyridine
2-(5-Isopropoxy-3-trifluoromethyl-pyrazol-1-yl)-5-methanesulfonyl-pyridine (105 mg) and NCS (N-chlorosuccinimide) (200 mg) were dissolved in DMF under nitrogen, and the reaction mixture was stirred at room temperature for 2.5 days. The reaction mixture was then diluted with 2:1 ethyl acetate:benzene solution (100 ml), and washed with 0.5 N sodium hydroxide solution (100 ml), water (100 ml), and brine (100 ml). The organic layer was dried with sodium sulfate, and the solvent was evaporated in vacuo to give the crude product which was purified by recrystallization from 2:1 of isooctane:methylene chloride to afford the title compound (13 mg, 11%, MS: 384.1).

reactant | 2-(5-Isopropoxy-3-trifluoromethyl-pyrazol-1-yl)-5-methanesulfonyl-pyridine | 105 mg | C(C)(C)OC1=CC(=NN1C1=NC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C13H14F3N3O3S
reactant | NCS | 200 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Isopropoxy-4-Chloro-3-Trifluoromethyl-Pyrazol-1-yl)-5-Methanesulfonyl-Pyridine | 13 mg, 11% | C(C)(C)OC1=C(C(=NN1C1=NC=C(C=C1)S(=O)(=O)C)C(F)(F)F)Cl | C13H13ClF3N3O3S
